Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Symptomatic left carotid artery stenosis
 
Major Surgical or Invasive Procedure:
___: Left Carotid Stent

 
History of Present Illness:
Mr. ___ had episodes of visual changes concerning for 
amaurosis fugax. Workup including ultrasound duplex which showed 
left carotid stenosis.   He is status post right carotid 
endarterectomy with nerve injury.  Because of the potential for 
bilateral nerve injury, we felt he would be better served 
treating the carotid stenosis with stenting.  He presents today 
for the procedure.
 
Past Medical History:
PMH: HTN, High chol, CAD, MI ___ - RCA stent,  
cerebral aneurysm (no tx warrented), melanoma, inguinal hernia 
repair and appendectomy,anxiety, right carotid endarterectomy 
with nerve injury  
___: asa 81', amlodipine 10',Lipitor 20', Plavix 75', furosemide 
40', loratidine 10', MVI  

 
Physical Exam:
Alert and oriented x 3. Neurologically intact. 
VS:BP 130/67       HR  76        RR  20
Carotids: 2+, no bruits or JVD
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses:      Left  Femoral p,    DP d   ,___ d
                  Right Femoral p,     DP d ,  ___ d
Feet warm,  well perfused.  No open areas
Left/Right groin puncture site: Dressing clean dry and intact. 
Soft, no hematoma but with surrounding ecchymosis.

 
Pertinent Results:
___ 04:27AM BLOOD WBC-4.3 RBC-3.21* Hgb-10.3* Hct-29.6* 
MCV-92 MCH-32.2* MCHC-35.0 RDW-13.3 Plt ___
___ 04:27AM BLOOD Glucose-88 UreaN-13 Creat-0.8 Na-141 
K-4.0 Cl-108 HCO3-27 AnGap-10
___ 04:27AM BLOOD Calcium-8.0* Phos-3.5 Mg-2.0
 
Brief Hospital Course:
The patient was brought to the operating room on ___ and 
underwent left carotid stenting.  The procedure was without 
complications.  He was closely monitored in the PACU and then 
transferred to the floor in stable condition. On POD 1 foley was 
removed.  Patient was unable to void so foley was reinserted and 
CBI was started secondary to bloody urine with clots.  Flomax 
was started and on POD 2 CBI and foley was discontinued and he 
voided clear urine without difficulty. He was discharged to home 
on POD # 2 in stable condition.  Follow-up has been arranged 
with urology in 2 weeks and Dr. ___ in one month with 
surveillance duplex. 
 
Medications on Admission:
asa 81', amlodipine 10',Lipitor 20', Plavix 75', furosemide 40', 
loratidine 10', MVI 
 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Tamsulosin 0.4 mg PO HS 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule,extended release 
24hr(s) by mouth daily Disp #*30 Capsule Refills:*1
5. Atorvastatin 20 mg PO DAILY 
6. Acetaminophen 650 mg PO Q4H:PRN pain 
7. Furosemide 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Carotid Artery Stenosis
Urinary Retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were treated by the ___ Vascular Surgery Service for your 
carotid stenosis.  You have had a stent placed in your left 
carotid artery. You had no problems from your stent placement 
and are safe to return home and continue your recovery there. 
.
You had bloody urine while you were in the hospital.  We placed 
a foley and washed out your bladder to prevent any clot 
formation or obstruction.  We started you on a new medication 
called flomax to shrink your prostate size and make it easier to 
pass urine.  The foley was removed and you are urinating well on 
your own without any blood in you urine.  You will need to 
follow up with the Urology Service at ___.
.
Medications:
•Continue taking your Aspirin once daily 
•Continue taking your Plavix (Clopidogrel) 75mg once daily 
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort
.
What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•You should not have an MRI scan within the first 4 weeks after 
carotid stenting

 
Followup Instructions:
___